US05412137
A solution of 5.07 g of ethyl 4-(4-hydroxyphenoxy)butyrate in 23 ml of ether is added dropwise to a mixture of 1.72 g of lithium aluminum hydride in 90 ml of ether at a rate which maintains a gentle reflux. The mixture is stirred at ambient temperature for 6 hours, and then water is carefully added followed by 3N HCl to dissolve all solids. After separating the ether phase and extracting the aqueous phase twice with ether, the combined ether phases are washed with saturated NaHCO3, water, and brine and dried over MgSO4. Filtration and concentration yields 4-(4-hydroxyphenoxy)butan-1-ol as a white solid.

reactant | ethyl 4-(4-hydroxyphenoxy)butyrate | 5.07 g | OC1=CC=C(OCCCC(=O)OCC)C=C1 | C12H16O4
reactant | lithium aluminum hydride | 1.72 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | HCl | 3N | Cl | ClH
solvent | ether | 23 ml | CCOCC | C4H10O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 4-(4-hydroxyphenoxy)butan-1-ol | OC1=CC=C(OCCCCO)C=C1 | C10H14O3
